US08895549B2
To a solution of (2R)-3-(4-morpholinyl)-1,2-propanediol (0.447 g, 2.77 mmol) in CH2Cl2 (7.5 mL) was cooled to 0° C. and added thionyl chloride (0.41 mL, 5.55 mmol, 2.0 equiv.) was added dropwise. The resulting solution was heated at the reflux temperature for 1 hr, cooled to room temperature and concentrated under reduced pressure to give 4-[(4R)-(2-oxido-1,3,2-dioxathiolan-4-yl)methyl]morpholine hydrochloride (0.70 g, 104%). This material was used in the next step without further purification.

reactant | (2R)-3-(4-morpholinyl)-1,2-propanediol | 2.77 mmol, 0.447 g | N1(CCOCC1)C[C@H](CO)O | C7H15NO3
reactant | thionyl chloride | 5.55 mmol, 0.41 mL, 2.0 equiv. | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 7.5 mL | C(Cl)Cl | CH2Cl2
product | 4-[(4R)-(2-oxido-1,3,2-dioxathiolan-4-yl)methyl]morpholine hydrochloride | 0.70 g, 104% | Cl.O=S1OC[C@H](O1)CN1CCOCC1 | InChI=1S/C7H13NO4S.ClH/c9-13-11-6-7(12-13)5-8-1-3-10-4-2-8;/h7H,1-6H2;1H/t7-,13?;/m1./s1
